US08183414B2
To 1-(2,3-dichlorophenyl)-2-(pyridin-3-yl)ethanamine (258 mg, 0.97 mmol) in methanol (5 mL) was added 5-methoxy-3,4-dihydro-2H-pyrrole (96 mg, 0.97 mmol) followed by acetic acid (2 drops). The mixture was heated at 70° C. for 16 hours. The mixture was cooled to room temperature and methanol was removed. Purification by chromatography on silica gel (5% 7N NH3 in MeOH/CH2Cl2) gave N-(1-(2,3-dichlorophenyl)-2-(pyridin-3-yl)ethyl)-3,4-dihydro-2H-pyrrol-5-amine (161 mg, 50%) as an off white solid.

reactant | 1-(2,3-dichlorophenyl)-2-(pyridin-3-yl)ethanamine | 0.97 mmol, 258 mg | ClC1=C(C=CC=C1Cl)C(CC=1C=NC=CC1)N | C13H12Cl2N2
reactant | 5-methoxy-3,4-dihydro-2H-pyrrole | 0.97 mmol, 96 mg | COC=1CCCN1 | C5H9NO
solvent | methanol | 5 mL | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | N-(1-(2,3-dichlorophenyl)-2-(pyridin-3-yl)ethyl)-3,4-dihydro-2H-pyrrol-5-amine | 161 mg, 50% | ClC1=C(C=CC=C1Cl)C(CC=1C=NC=CC1)NC=1CCCN1 | C17H17Cl2N3
